* SPICE Netlist

* Components
R1 2 1 1000 ; Resistor R1 between node 2 and ground (node 1)
C1 4 2 1u ; Capacitor C1 between node 4 and node 2
IB2 2 0 DC 1mA ; Current Source IB2 from node 2 to ground (node 0)
VOUT 4 3 DC 0 ; Voltage output from node 4 to node 3 (Vout)

* Operational Amplifier (Op-amp)
XOP 2 2 4 opamp ; Op-amp with non-inverting input at node 2, inverting input at node 2, output at node 4

* Models and Subcircuits
.subckt opamp in+ in- out 
* Ideal op-amp model (for simplicity in this example)
Rout out in+ 10meg
E1 out 0 in+ in- 100meg
.ends opamp

.end